US07179943B2
(1S)-N-(3,5-dichlorophenyl)-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide
To an ice-cooled solution of (1S)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione (0.18 g, 1.0 mmole), triethylamine (0.10 g, 1.0 mmole) and 4-(dimethylamino)pyridine (0.12 g, 1.0 mmole) in dry dichloromethane (25 mL) was added a solution of 3,5dichlorophenyl isocyanate (0.19 g, 1.0 mmole) in dry dichloromethane (5 mL). The resulting mixture was allowed to stir overnight under a nitrogen atmosphere, during which time it came up to room temperature, and then was heated at 30° C. for 7 hours. The reaction mixture was treated with 2N aqueous HCl and the layers separated. The acidic aqueous layer was extracted with two additional portions of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to give a yellow oil, which was purified by chromatography on silica gel (10% ethyl acetate/hexane) to yield a yellow oil, which was crystallized from 95% ethanol to yield the title compound as a beige solid (0.20 g, 55% yield), mp=112–114° C.; MS (−) ESI m/z=366 (M−H)−; [α]D25=−25.4° (c=1, EtOH).

reactant | (1S)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | 1.0 mmole, 0.18 g | C[C@]12C(CC(C(CC1)C2(C)C)=O)=O | C11H16O2
reactant | triethylamine | 1.0 mmole, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | 3,5dichlorophenyl isocyanate | 1.0 mmole, 0.19 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | HCl | 2N | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 1.0 mmole, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (1S)-N-(3,5-dichlorophenyl)-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide | 0.20 g, 55% yield | ClC=1C=C(C=C(C1)Cl)NC(=O)C1C([C@]2(CCC(C1=O)C2(C)C)C)=O | C18H19Cl2NO3
